US07476316B2
N-(4-vinylbenzyl)-N-decyl-N,N-dimethylammonium chloride
Dimethyl decyl amine (9.30 g, 50 mmol) and 4-vinylbenzylchloride (7.63 g, 50 mmol) were added to ether (20 mL) and were allowed to stir for 12 hours. A yellow solid precipitated and was subsequently collected by filtration resulting in 3 g (17% yield). The ether was removed and the remaining solution was allowed to react neat for 24 hours giving a near quantitative yield after washing with ether. Subsequent reactions were performed neat. 1H-NMR (90 MHz, CDCl3, δ): 7.68-7.38 (dd, 4H); 6.87-6.56 (dd, 1H); 5.89-5.70 (d, 1H); 5.41-5.29 (d, 1H); 5.09 (s, 2H); 3.51 (bs, 2H); 3.31 (s, 6H); 1.81 (bs, 2H) 1.25 (bs, 14H); 0.92-0.81 (t, 3H).

reactant | Dimethyl decyl amine | 50 mmol, 9.30 g | CN(CCCCCCCCCC)C | C12H27N
reactant | 4-vinylbenzylchloride | 50 mmol, 7.63 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
solvent | ether | 20 mL | CCOCC | C4H10O
product | N-(4-vinylbenzyl)-N-decyl-N,N-dimethylammonium chloride | 17% yield | [Cl-].C(=C)C1=CC=C(C[N+](C)(C)CCCCCCCCCC)C=C1 | InChI=1S/C21H36N.ClH/c1-5-7-8-9-10-11-12-13-18-22(3,4)19-21-16-14-20(6-2)15-17-21;/h6,14-17H,2,5,7-13,18-19H2,1,3-4H3;1H/q+1;/p-1
